US06977262B2
Ethyl 4-(2-chlorophenyl)-4,7-dihydro-3-methyl-6-trifluoromethyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-chlorobenzaldehyde, 3-amino-5-methylpyrazole and ethyl trifluoroacetoacetate in the same manner as in Example 1.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-amino-5-methylpyrazole | NC1=NNC(=C1)C | C4H7N3
reactant | ethyl trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
product | Ethyl 4-(2-chlorophenyl)-4,7-dihydro-3-methyl-6-trifluoromethyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)C(F)(F)F)=NNC2C | C17H15ClF3N3O2
